US04203987
2,3,4,4a-Tetrahydro-3-[4-(4-Pyridinyl)Butyl]-1H-Pyrazino[1,2-a]Quinoxalin-5(6H)-One
A solution of 6.2 g. (0.03 mole) of 2,3,4,4a-tetrahydro-1H-pyrazino[1,2-a]quinoxalin-5(6H)-one, hydrochloride, 7 g. (0.04 mole) of 4-(4-pyridyl)-1-chlorobutane, 10 g. of potassium carbonate, 5 g. of potassium iodide and 0.5 ml. of triethylamine was stirred and refluxed in 200 ml. of acetone for 48 hours, cooled and filtered. The solvent was removed and the residue was dissolved in methylene chloride. This solution was washed with water and brine, dried over magnesium sulfate and filtered. The solvent was removed and the residue was chromatographed on 500 g. of Silicar, CC-7. Fractions eluted with 10% methanol in ethyl acetate afforded 3.2 g. of free base. 3 G. of the above free base was dissolved in ethanol and treated with dry hydrogen chloride saturated ether. The product hydrochloride was filtered and recrystallized from methanol to give 3.2 g. of the title compound as the dihydrochloride salt, m.p. 281°-283° C.

reactant | 2,3,4,4a-tetrahydro-1H-pyrazino[1,2-a]quinoxalin-5(6H)-one, hydrochloride | 0.03 mole | Cl.C1CNCC2N1C1=CC=CC=C1NC2=O
reactant | 4-(4-pyridyl)-1-chlorobutane | 0.04 mole | N1=CC=C(C=C1)CCCCCl | C9H12ClN
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
solvent | acetone | CC(=O)C | C3H6O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2,3,4,4a-Tetrahydro-3-[4-(4-Pyridinyl)Butyl]-1H-Pyrazino[1,2-a]Quinoxalin-5(6H)-One | N1=CC=C(C=C1)CCCCN1CC2N(C3=CC=CC=C3NC2=O)CC1 | C20H24N4O
